US04246167
Diphenyl Fulvene
About equal molar amounts of benzophenone and cyclopentadiene are reacted in an ethanol/sodium ethoxide solution according to the method suggested by Kice, JACS 80, 3796 (1958). The dark red crystals obtained are recrystallized from ethanol and dried under vacuum.

reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | ethanol sodium ethoxide | C(C)O.[O-]CC.[Na+]
product | Diphenyl Fulvene | C1(=CC=CC=C1)C1=C(C(C=C1)=C)C1=CC=CC=C1 | C18H14
